### PR TITLE
[Merged by Bors] - feat(Order/Interval/Set): `to_dual` for `Iio`/`Iic`

### PR DESCRIPTION
**Pull request by JovanGerb**
This PR tags `Iio`/`Ioi` and `Iic`/`Ici` with `to_dual`.

A future PR will do this for `Ioc`/`Ico` and `Ioo` and `Icc`.

---

- [ ] depends on: #35004

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Interval/Set/Basic.lean [hunk 1]
```diff
@@ -679,11 +609,7 @@ theorem Ioc_diff_right : Ioc a b \ {b} = Ioo a b :=
 theorem Icc_diff_both : Icc a b \ {a, b} = Ioo a b := by
   rw [insert_eq, ← diff_diff, Icc_diff_left, Ioc_diff_right]
 
-@[simp]
-theorem Ici_diff_left : Ici a \ {a} = Ioi a :=
-  ext fun x => by simp [lt_iff_le_and_ne, eq_comm]
-
-@[simp]
+@[to_dual (attr := simp) Ici_diff_left]
```
Comment (JovanGerb) [inline Mathlib/Order/Interval/Set/Basic.lean:608]: @vihdzp, would you be in favour of renaming these theorems as well, to something like `Iic_diff_self` or `Iic_diff_singleton_self`?

File: Mathlib/Order/Interval/Set/Basic.lean [hunk 2]
```diff
@@ -286,39 +248,23 @@ theorem Ioc_self (a : α) : Ioc a a = ∅ :=
...
-  @Ici_subset_Ici αᵒᵈ _ _ _
-
-@[gcongr] alias ⟨_, _root_.GCongr.Iic_subset_Iic_of_le⟩ := Iic_subset_Iic
-
-@[simp]
-theorem Iic_ssubset_Iic : Iic a ⊂ Iic b ↔ a < b :=
-  @Ici_ssubset_Ici αᵒᵈ _ _ _
-
-@[gcongr] alias ⟨_, _root_.GCongr.Iic_ssubset_Iic_of_le⟩ := Iic_ssubset_Iic
+@[to_dual (attr := gcongr)] alias ⟨_, _root_.GCongr.Iic_ssubset_Iic_of_le⟩ := Iic_ssubset_Iic
```
Comment (vihdzp) [inline Mathlib/Order/Interval/Set/Basic.lean]: This looks like a misnomer?
```suggestion
@[to_dual (attr := gcongr)] alias ⟨_, _root_.GCongr.Iic_ssubset_Iic_of_lt⟩ := Iic_ssubset_Iic
```

File: Mathlib/Order/Interval/Set/Basic.lean (hunk 1 above)
Comment (vihdzp) [reply Mathlib/Order/Interval/Set/Basic.lean:608]: `Iic_diff_singleton_self` seems like the correct name.

**Review by vihdzp — APPROVED** [review]
LGTM modulo renames.

File: Mathlib/Order/Interval/Set/Basic.lean (hunk 2 above)
Comment (JovanGerb) [reply Mathlib/Order/Interval/Set/Basic.lean]: These `GCongr.` lemmas are supposed to be internal, and these are removed anyways in #33025, so I wouldn't worry too much about the name

File: Mathlib/Order/Interval/Set/Basic.lean (hunk 1 above)
Comment (JovanGerb) [reply Mathlib/Order/Interval/Set/Basic.lean:608]: In that case we would also need `Icc_diff_left` -> `Icc_diff_singleton_left` and so on. So maybe better in another PR.

**Comment by JovanGerb** [comment]
Although it is true that `to_dual` can now also handle other intervals like `Set.Ico`, I think it would still be reasonable to merge this PR first, since it already exists.

**Review by bryangingechen — APPROVED** [review]
Thanks! I guess this will conflict with #35004. Please also update the PR description and deprecation dates before merging.
bors d+
